US07560567B2
Preparation of methyl[3-chloro-5-(trifluoromethyl)-2-pyridinyl](cyano)acetate
Under argon, 116 g of sodium hydride 60% in dispersion in oil (2.91 mol, 1.8 eq.) was suspended in 3 L of DMF. The suspension was cooled down in an ice-water bath. 160 g (1.616 mol, 1.0 eq) of methyl cyanoacetate in solution in 200 mL of DMF was added dropwise under stirring. Temperature rose to 50° C. and hydrogen was released. Once bubbling was over, 350 g (1.616 mol, 1.0 eq) of 2,3-dichloro-5-(trifluoromethyl)-pyridine was added under stirring. The mixture was stirred overnight at room temperature. 50 mL of methanol were added dropwise to quench the reaction. The reaction mixture was poured in 5 L of water. pH was adjusted to 3-4 with concentrated hydrochloric acid.

reactant | sodium hydride | 116 g | [H-].[Na+]
reactant | methyl cyanoacetate | 1.616 mol, 160 g, 1.0 eq | C(#N)CC(=O)OC | C4H5NO2
reactant | hydrogen | [H][H] | H2
reactant | 2,3-dichloro-5-(trifluoromethyl)-pyridine | 1.616 mol, 350 g, 1.0 eq | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 3 L | CN(C)C=O | C3H7NO
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | 5 L | O | H2O
solvent | methanol | 50 mL | CO | CH4O
product | methyl[3-chloro-5-(trifluoromethyl)-2-pyridinyl](cyano)acetate | COC(C(C#N)C1=NC=C(C=C1Cl)C(F)(F)F)=O | C10H6ClF3N2O2
